US06638919B2
L-Alanine n-propyl ester hydrochloride salt.
This was synthesised according to Standard Procedure 1, using anhydrous propan-1-ol (42.0 ml, 0.56 mol), thionyl chloride (8.2 ml, 0.112 mol) and L-alanine (5.0 g, 0.056 mol). The product was isolated as a white solid (8.88 g, 94.3%).

reactant | propan-1-ol | 0.56 mol, 42.0 ml | C(CC)O | C3H8O
reactant | thionyl chloride | 0.112 mol, 8.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | L-alanine | 0.056 mol, 5.0 g | N[C@@H](C)C(=O)O | C3H7NO2
product | L-Alanine n-propyl ester hydrochloride salt | 8.88 g, 94.3% | Cl.C(CC)OC([C@@H](N)C)=O | InChI=1S/C6H13NO2.ClH/c1-3-4-9-6(8)5(2)7;/h5H,3-4,7H2,1-2H3;1H/t5-;/m0./s1
